US08067621B2
Step 1: 3-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylamino]-propan-1-ol
4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2H-chromene (0.3 g, 0.88 mmole) was dissolved in 15 ml THF and 3-aminopropanol (1 ml) was added. The mixture was stirred at room temperature for 30 minutes. 50 saturated Na2CO3 solution and 50 ml EtOAc were added. The organic layer washed with water (50 ml), brine (50 ml), dried over Na2SO4 and concentrated. The product was purified by column (EtOAc/hexane from 50/50 to 100/0 in 45 minutes). Yield: 0.31 g, 84%. 1H NMR (CDCl3 400 MHz) δ 7.69 (d, J=8.8 Hz, 2H), 7.48 (d, J=8.1 Hz), 6.99 (td, J=9.5, 5.1 Hz, 1H), 6.38 (td, J=9.5, 3.7 HZ, 1H), 4.80 (dd, J=12.5, 2.9 Hz, 1H), 4.53 (s, 1H), 4.43 (d, J=11.8 Hz, 1H), 3.78 (s, 1H), 3.61 (t, J=5.9 Hz, 2H), 2.86-2.71 (m, 2H), 2.25 (bs, 1H), 1.57 (p, J=5.9 Hz, 2H).

reactant | 4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2H-chromene | 0.88 mmole, 0.3 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CCOC2=C(C=CC(=C12)F)F | C15H9ClF2O3S
reactant | 3-aminopropanol | 1 ml | NCCCO | C3H9NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylamino]-propan-1-ol | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)NCCCO | C18H18ClF2NO4S
